US08445501B2
5-Ethoxy-benzo[1,3]dioxole
Starting from commercially available iodoethane and sesamol the title compound is obtained as colorless oil.

reactant | iodoethane | ICC | C2H5I
reactant | sesamol | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
product | 5-Ethoxy-benzo[1,3]dioxole | C(C)OC1=CC2=C(OCO2)C=C1 | C9H10O3
